US07807709B2
(1-Acetylamino-cyclohexyl)-acetic acid
The title compound is prepared analogously as described for (1-acetylamino-cyclopentyl)-acetic acid from (1-amino-cyclohexyl)-acetic acid. MS (LC-MS): [M+H]+=200.1. (HPLC, Waters Symmetry C18 column, 20-95% CH3CN/H2O/3.5 min, 95% CH3CN/H2O, 2 min, CH3CN and H2O containing 0.1% TFA, flow: 0.6 mL/min): 0.81 min.

reactant | (1-acetylamino-cyclopentyl)-acetic acid | C(C)(=O)NC1(CCCC1)CC(=O)O | C9H15NO3
reactant | (1-amino-cyclohexyl)-acetic acid | NC1(CCCCC1)CC(=O)O | C8H15NO2
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | (1-Acetylamino-cyclohexyl)-acetic acid | C(C)(=O)NC1(CCCCC1)CC(=O)O | C10H17NO3
